US05292922
First, 1.47 g of N-(4-chloro-2-fluoro-5-methoxyphenyl)-2-chloroacetimidoylchloride and 1.00 g of 3,4,5,6-tetrahydrophthalamic acid monomethyl ester were dissolved in 20 ml of benzene, and 570 mg of triethylamine dissolved in 5 ml of benzene was added to the solution at room temperature. After that the stirring was continued for 1.5 hr at 60° C. After letting the reaction liquid stand to cool the same, it was poured into iced water, and then the organic layer was separated therefrom. The organic layer was washed first with water and then with saturated brine, and then dried by using anhydrous magnesium sulfate. The solvent was concentrated, and then methanol was added to the residue. The produced crystals were filtered out, then washed with methanol, and then dried to obtain 1.18 g of N-(2-chloroacetyl)-N-(4-chloro-2-fluoro-5-methoxyphenyl)-3,4,5,6-tetrahydrophthalamic acid methyl ester. The melting point was 109° C.

reactant | N-(4-chloro-2-fluoro-5-methoxyphenyl)-2-chloroacetimidoylchloride | 1.47 g | ClC1=CC(=C(C=C1OC)N=C(CCl)Cl)F | C9H7Cl3FNO
reactant | 3,4,5,6-tetrahydrophthalamic acid monomethyl ester | 1.00 g | COC(C1=C(C(=O)N)CCCC1)=O | C9H13NO3
reactant | triethylamine | 570 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | N-(2-chloroacetyl)-N-(4-chloro-2-fluoro-5-methoxyphenyl)-3,4,5,6-tetrahydrophthalamic acid methyl ester | 1.18 g | COC(C1=C(C(=O)N(C2=C(C=C(C(=C2)OC)Cl)F)C(CCl)=O)CCCC1)=O | C18H18Cl2FNO5
